US08049006B2
tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate Hydrochloride (Compound S101)
To the compound S100 (139 g) in tetrahydrofuran (1.41) solution, distilled water (70 ml) and triphenylphosphine (119 g) were added under ice cooling and the mixture was stirred at 50° C. for 20 hours. The reaction solution was concentrated, toluene and 0.5N hydrochloric acid were added, and the aqueous layer and the organic layer were separated. Hexane was added to the organic layer, and the mixture was extracted with 0.5N hydrochloric acid. A sodium hydroxide aqueous solution was added to the combined aqueous layer, then the obtained alkali aqueous solution was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over with anhydrous sodium sulfate, and concentrated to obtain tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate. The obtained tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate was diluted with ethyl acetate, 4N hydrogen chloride/ethyl acetate (110 ml) was added, and the precipitate was collected by filtration. The filtrate was recrystallized from N,N-dimethylformamide/ethyl acetate to obtain the title compound (45.8 g).

reactant | tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate | N[C@H](CC)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C14H20N2O4
reactant | hydrogen chloride ethyl acetate | 4N, 110 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[(1R)-1-aminopropyl]-2-nitrobenzoate Hydrochloride | 45.8 g | Cl.N[C@H](CC)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | InChI=1S/C14H20N2O4.ClH/c1-5-11(15)9-6-7-10(12(8-9)16(18)19)13(17)20-14(2,3)4;/h6-8,11H,5,15H2,1-4H3;1H/t11-;/m1./s1
